US07977358B2
A] 3,5-Dimethyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 38A], (4-trifluoromethoxy-phenyl)-hydrazine hydrochloride and ethyl diacetoacetate gave, after extraction (3× Et2O), drying (Na2SO4) and evaporation, the title compound in 72% yield as orange oil. MS: 328.9 (MH+).

reactant | (4-trifluoromethoxy-phenyl)-hydrazine hydrochloride | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
reactant | ethyl diacetoacetate | CCOC(=O)C(C(=O)C)C(=O)C | C8H12O4
product | 3,5-Dimethyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 72% yield | C(C)OC(=O)C=1C(=NN(C1C)C1=CC=C(C=C1)OC(F)(F)F)C | C15H15F3N2O3
